US05852016
(g) 3,5-Diamino-6-chloro-7-trifluoromethyl-2-methoxyquinoxalin
Hydrazine hydrate (0.34 ml, 7.0 mmol) was added to a stirred solution of 3-amino-6-chloro-7-trifluoromethyl-2-methoxy-5-nitroquinoxaline (0.55g, 1.7 mmol) in ethanol (25 ml) containing suspended 10% ruthenium-on-carbon (55 mg) under nitrogen at reflux. After 20 minutes, additional hydrazine hydrate (0.17 ml, 3.4 mmol) was added, and the mixture was stirred at reflux for 30 minutes, then allowed to stand at room temperature overnight. The mixture was filtered through Arbocel filter aid, and the filter cake was washed with ethanol and dichloromethane. The filtrate was concentrated under reduced pressure to give the title compound (0.50 g, 100%) as an off-white solid.

reactant | Hydrazine hydrate | 7.0 mmol, 0.34 ml | O.NN
reactant | 3-amino-6-chloro-7-trifluoromethyl-2-methoxy-5-nitroquinoxaline | 1.7 mmol, 0.55g | NC=1C(=NC2=CC(=C(C(=C2N1)[N+](=O)[O-])Cl)C(F)(F)F)OC | C10H6ClF3N4O3
reactant | hydrazine hydrate | 3.4 mmol, 0.17 ml | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | ruthenium-on-carbon | 55 mg | [Ru] | Ru
product | 3,5-Diamino-6-chloro-7-trifluoromethyl-2-methoxyquinoxalin | 0.50 g, 100% | NC=1C(=NC2=CC(=C(C(=C2N1)N)Cl)C(F)(F)F)OC | C10H8ClF3N4O
